US08729304B2
1,4-Dibutyl-2,2-dimethyl-3,5-dioxo-1,4,2-diazaphospholidin-2-ium iodide
A mixture of 820 mg (3.3 mmol) of 1,4-dibutyl-2-methyl-1,4,2-diazaphospholidine-3,5-dione (cf. Ex. 3) with 6.27 g (44 mmol) of methyl iodide (from Aldrich) was heated at reflux (bath temperature: to 80° C.) while stirring with a magnetic stirrer bar for 24 h. The yellow mixture, whose viscosity had risen noticeably, was analysed by NMR spectroscopy without further workup:

reactant | 1,4-dibutyl-2-methyl-1,4,2-diazaphospholidine-3,5-dione | 3.3 mmol, 820 mg | C(CCC)N1P(C(N(C1=O)CCCC)=O)C | C11H21N2O2P
reactant | methyl iodide | 44 mmol, 6.27 g | CI | CH3I
product | 1,4-Dibutyl-2,2-dimethyl-3,5-dioxo-1,4,2-diazaphospholidin-2-ium iodide | [I-].C(CCC)N1[P+](C(N(C1=O)CCCC)=O)(C)C | InChI=1S/C12H24N2O2P.HI/c1-5-7-9-13-11(15)14(10-8-6-2)17(3,4)12(13)16;/h5-10H2,1-4H3;1H/q+1;/p-1
